US20010018525A1
step 3 2,6-diphenyl-4-decyloxy-phenol
A mixture of 3,5-diphenyl4-[(2-methoxyethoxy)methoxy]-phenyl decyl ether (0.880 g, 1.793 mmol) and ZnBr2 (2.019 g, 8.967 mmol) in methylene chloride (10 ml) under nitrogen was stirred at room temperature. After ˜48 h, the reaction mixture was concentrated in vac and the residue was taken up in EtOAc (60 ml) and saturated NaHCO3 solution (20 ml). The layers were shaken and separated and the organic layer was washed with saturated NaHCO3 solution (2×10 ml), water (3×10 ml), brine (1×10 ml), dried over Na2SO4, filtered and the filtrate concentrated in vac and dried. The residue was purified by flash chromatography (hexane and 1% EtOAc/Hex) to give the product as a light brown oil (0.571 g, 79%); 1H NMR (400 MHz, DMSO-d6) δ0.83-0.88 (m, 3H), 1.20-1.36 (m, 12H), 1.36-1.45 (m, 2H), 1.65-1.73 (m, 2H), 3.96 (t, J=6.6 Hz, 2H), 6.77 (s, 2H), 7.31-7.36 (m, 2H), 7.40-7.45 (m, 4H), 7.54-7.58 (m, 4H), 7.80 (s, 1H); IR (film) 3550, 2940, 1600, 1460, 1180 cm−1; mass spectrum [EI], m/z 402 M+.

reactant | 3,5-diphenyl4-[(2-methoxyethoxy)methoxy]-phenyl decyl ether | 1.793 mmol, 0.880 g | C(CCCCCCCCC)OC1=CC(=C(C(=C1)C1=CC=CC=C1)OCOCCOC)C1=CC=CC=C1 | C32H42O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | ZnBr2 | 8.967 mmol, 2.019 g | [Zn+2].[Br-].[Br-]
product | 2,6-diphenyl-4-decyloxy-phenol | 0.571 g, 79% | C1(=CC=CC=C1)C1=C(C(=CC(=C1)OCCCCCCCCCC)C1=CC=CC=C1)O | C28H34O2
